US08685975B2
To an ice-cold solution of potassium 2-methoxy-2-(4-(1-(tris(4-methoxyphenyl)methyl)-1H-pyrazol-4-yl)phenyl)acetate (1.25 g, 2.1 mmol) in anhydrous DMF (10 mL) under argon was added diisopropylethylamine (0.54 mL, 3.1 mmol) and bis(2-methoxyethyl)aminosulfur trifluoride (0.46 mL, 2.5 mmol) dropwise. The reaction was stirred for 30 min then N,O-dimethylhydroxylamine hydrochloride (0.303 g, 3.1 mmol) was added. After stirring for a further 15 min over an ice bath, the mixture was allowed to warm to room temperature and stirred for 3.5 hrs. H2O was added and the mixture was extracted with EtOAc. The combined organics were washed with H2O, saturated aqueous NH4Cl, saturated aqueous NaHCO3, and brine then dried over Na2SO4 and concentrated in vacuo. Purification by chromatography (45-90% EtOAc-hexanes; EtOAc containing 1% Et3N) to give N,2-dimethoxy-N-methyl-2-(4-(1-(tris(4-methoxyphenyl)methyl)-1H-pyrazol-4-yl)phenyl)acetamide (0.478 g from two reactions, 32% yield overall).

reactant | potassium 2-methoxy-2-(4-(1-(tris(4-methoxyphenyl)methyl)-1H-pyrazol-4-yl)phenyl)acetate | 2.1 mmol, 1.25 g | COC(C(=O)[O-])C1=CC=C(C=C1)C=1C=NN(C1)C(C1=CC=C(C=C1)OC)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC.[K+]
reactant | diisopropylethylamine | 3.1 mmol, 0.54 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bis(2-methoxyethyl)aminosulfur trifluoride | 2.5 mmol, 0.46 mL | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | N,O-dimethylhydroxylamine hydrochloride | 3.1 mmol, 0.303 g | Cl.CNOC
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | N,2-dimethoxy-N-methyl-2-(4-(1-(tris(4-methoxyphenyl)methyl)-1H-pyrazol-4-yl)phenyl)acetamide | 0.478 g, 32% yield | CON(C(C(C1=CC=C(C=C1)C=1C=NN(C1)C(C1=CC=C(C=C1)OC)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)OC)=O)C | C36H37N3O6
